US05721234
1-Acetamido-4-bromo-2-nitro-7-pyrrolidin-1-yl-5,6,7,8-tetrahydronaphthalene
A mixture of 1-acetamido-4-bromo-7-pyrrolidin-1-yl-5,6,7,8-tetrahydronaphthalene (0.3 g) in trifluoroacetic acid (10 mL) was cooled in an icebath and treated with fuming nitric acid (0.5 mL). After stirring for 4 h, the solvent was evaporated and the residue taken up in methylene chloride:water. The mixture was basified with 12.5% NaOH, and the aqueous layer back extracted. The combined organic layers were dried over sodium sulfate, filtered and evaporated to give a solid. Preparative thin layer chromatography (7:3 EtOAc:MeOH) was used to obtain the purified product (0.12 g).

reactant | 1-acetamido-4-bromo-7-pyrrolidin-1-yl-5,6,7,8-tetrahydronaphthalene | 0.3 g | C(C)(=O)NC1=CC=C(C=2CCC(CC12)N1CCCC1)Br | C16H21BrN2O
reactant | nitric acid | 0.5 mL | [N+](=O)(O)[O-] | HNO3
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | MeOH | CO | CH4O
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-Acetamido-4-bromo-2-nitro-7-pyrrolidin-1-yl-5,6,7,8-tetrahydronaphthalene | 0.12 g | C(C)(=O)NC1=C(C=C(C=2CCC(CC12)N1CCCC1)Br)[N+](=O)[O-] | C16H20BrN3O3
